US04544501
In a similar manner 0.025 moles of P,P-bis(2,2-dimethyl-1-aziridinyl)thiophosphinic bromide in about 170 milliliters of THF, prepared in accordance with Example 1, is saturated with an excess of gaseous methylamine, stirred over night at 4° C., filtered, concentrated on a rotary evaporator at room temperature, and vacuum distilled to provide about 65% yield of P,P-bis(2,2-dimethyl-1-aziridinyl)-N methylthiophosphinic amide.

reactant | P,P-bis(2,2-dimethyl-1-aziridinyl)thiophosphinic bromide | 0.025 moles | CC1(N(C1)P(=S)(N1C(C1)(C)C)Br)C | C8H16BrN2PS
reactant | methylamine | CN | CH5N
solvent | THF | about 170 milliliters | C1CCOC1 | C4H8O
product | P,P-bis(2,2-dimethyl-1-aziridinyl)-N methylthiophosphinic amide | about 65% yield | CC1(N(C1)P(NC)(=S)N1C(C1)(C)C)C | C9H20N3PS
